Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain, n/v
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ ___ speaking woman with history of 
DMII, HTN, HLD, OA, pancreatitis, gastric ulcer and HCC not 
treated presenting with abdominal pain and acute on chronic left 
hip pain found to have DVT, liver lesions and lactate elevation. 


The patient was in her USOH until approximately 5 days prior to 
admission when she developed nausea and then vomiting 3 days 
prior to admission. The vomiting was nonbloody, nonbilious. 
following episodes of vomiting, patient developed sharp, severe 
epigastric pain which improved to a dull aching pain over the 
next day. She denies radiation of pain. Pain is not worsened 
with eating. No diarrhea. Has had constipation. In addition to 
abdominal pain, has had some worsening of baseline left hip pain 
located on lateral aspect of hip and in groin. Denies cp, sob, 
fevers, chills, cough, dysuria, leg swelling. Given pain, nausea 
and vomiting, presented to the ED for evaluation. 

In the ED, initial vitals were: 9 98.9 70 182/74 17 99% RA  
Exam notable for mild wheezing, generalized abdominal pain, 
worse in epigastium, rectal with guaiac negative brown stool. 
Labs notable for WBC 13.8, H/H ___, plts 263, Na 131, K 4.6, 
Cl 88, bicarb 18, BUN/Cr ___. Mg 0.9, ALT 54, AST 46, AP 224, 
lipase and bili normal, trop negative. Lactate was 7.3, repeat 
10 minutes later at 5.5. 
Patient had RUQ US showing no biliary duct dilation but showing 
3 liver lesions new compared to our prior studies. 
Follow-up CT Abdomen/pelvis with contrast confirmed multiple 
liver masses suggesting malignancy and showed central filling 
defect of left common femoral vein concerning for DVT as well as 
1.4 cm  hypodense lesion in upper pole of left kidney. 
Head CT performed to rule out masses in brain prior to starting 
heparin. 
EKG: NSR, HR 78, LA, NI, 1mm STD II, 1mm STD V3-4 (new from 
prior)
Patient received  2L NS, dilaudid 0.5mg IV x2, home atenolol, 
Zofran 4mg, insulin 4u and was started on heparin gtt.  
Repeat lactate prior to transfer at 4.8. 
Vitals on transfer: 70 108/58 18 100% RA 

On the floor, patient reports she feels ok with mild ongoing 
pain. Otherwise without complaints at this time.  

Review of systems:  
(+) Per HPI. 10 point ROS negative except per HPI.  

 
Past Medical History:
DIABETES TYPE II                                                
HYPERTENSION                                                    
HYPERLIPIDEMIA                                                  
DEPRESSION                                                      
OSTEOARTHRITIS                                                  
PANCREATITIS                                                    
COLONIC POLYPS                                                  
ANEMIA                                                          
GASTROESOPHAGEAL REFLUX                                         
LOW BACK PAIN                                                   
IRON DEFICIENCY ANEMIA                                          
VIT B12 DEFICIENCY                                              
VITAMIN D DEFICIENCY                                            
HCC Followed at ___ without h/o intervention, stable on 
prior scans per patient's daughter
                                                 
AORTA WITH MILD ANEURYSMAL DILATATION                           
___ ESOPHAGITIS                                             
GASTRIC ULCER                                                   
ACUTE PANCREATITIS                                              
PRURITUS 
 
Social History:
___
Family History:
Mother with liver disease, sister with OA, both deceased.   

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
============================
Vital Signs: 98.1 PO 144 / 82 R Lying 78 18 97  
General: Alert, oriented, no acute distress, lying comfortably 
in bed, daughter at bedside translating for patient  
HEENT: Sclerae anicteric, MM dry, oropharynx clear, EOMI, PERRL, 
neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, normoactive bowel sounds, mild ttp 
in RUQ and epigastrium without rebound
GU: No foley  
Ext: Warm, well perfused, 2+  DP pulses, RLE with scarring from 
prior car accident and fracture on lateral aspect of calf, no 
edema. Left hip without erythema or ttp  
Neuro: CNII-XII intact, ___ strength upper/lower extremities  

DISCHARGE EXAM:
============================
Vitals: 98.2  BP 132 / 62  HR 65   RR 16   O2 sat 98% RA
General: alert and oriented, sitting up in chair, no acute 
distress
CV: r/r/r, no m/r/g
Abd: nontender throughout, nontender with deep palpation, 
normoactive bowel sounds
Lungs: clear to auscultation bilaterally
 
Pertinent Results:
Admission Labs:
=================
___ 10:20PM BLOOD WBC-13.8* RBC-4.34 Hgb-12.0 Hct-37.6 
MCV-87 MCH-27.6 MCHC-31.9* RDW-16.8* RDWSD-53.0* Plt ___
___ 10:20PM BLOOD Neuts-84.9* Lymphs-6.0* Monos-8.2 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-11.76*# AbsLymp-0.83* 
AbsMono-1.13* AbsEos-0.01* AbsBaso-0.02
___ 11:36PM BLOOD ___ PTT-25.2 ___
___ 10:20PM BLOOD Glucose-209* UreaN-12 Creat-0.9 Na-131* 
K-4.6 Cl-88* HCO3-18* AnGap-30*
___ 03:44PM BLOOD Glucose-179* UreaN-13 Creat-0.8 Na-134 
K-3.6 Cl-95* HCO3-20* AnGap-23*
___ 10:20PM BLOOD ALT-54* AST-46* AlkPhos-224* TotBili-0.4
___ 10:20PM BLOOD Albumin-4.3 Calcium-9.7 Phos-2.8 Mg-0.9*
___ 11:10PM BLOOD Lactate-7.3*
___ 11:22PM BLOOD Lactate-5.5*
___ 04:46AM BLOOD Lactate-2.7*
___ 03:50PM BLOOD Lactate-4.8*

Discharge labs:
=================
___ 08:21AM BLOOD WBC-7.7 RBC-3.75* Hgb-10.2* Hct-31.6* 
MCV-84 MCH-27.2 MCHC-32.3 RDW-16.6* RDWSD-51.3* Plt ___
___ 08:21AM BLOOD Glucose-159* UreaN-10 Creat-0.7 Na-136 
K-3.2* Cl-100 HCO3-20* AnGap-19
___ 07:00AM BLOOD ALT-37 AST-30 AlkPhos-161* TotBili-0.3
___ 08:21AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.5*
___ 08:21AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.5*
___ 01:23AM BLOOD Lactate-1.8

MICROBIOLOGY: 
=================
Blood cultures ___: pending 
urine culture pending
 
IMAGING & STUDIES: 
================= 

CT Head without contrast ___: No CT evidence of hemorrhage or 
mass effect.

Liver/Gallbladder US ___: 
1. Multiple liver lesions are consistent with history of 
hepatocellular carcinoma, further evaluated on subsequent CT 
abdomen and pelvis from same day. 
2. Gallbladder is well not visualized. 
3. Coarsened hepatic echotexture. 

CXR PA/Lat ___:
No acute cardiopulmonary process.

CT Abdomen/Pelvis with Contrast ___:
1. Multiple liver masses are suspicious for multifocal HCC or 
metastasis.  No other intra-abdominal mass is identified. 
2. The dominant mass extends into the right bile duct.  A 3 mm 
lesion is identified within the distal common bile duct.  Mild 
central intrahepatic biliary ductal dilation is worse in the 
left lobe than right.  These findings may indicate intraductal 
tumor involvement or metastases to the biliary tree. However, 
global biliary obstruction is not presently suspected. 
3. Central filling defect at left common femoral vein is 
suspicious for DVT. 
4. A 1.4 cm hypodense lesion in upper pole of left kidney 
demonstrates intermediate density.  The left renal cortex 
anterior to the lesion is hypoenhancing and there is nonspecific 
stranding of overlying Gerota's fascia. Possible etiologies 
include infected caliceal diverticulum or metastatic 
involvement.  Consider further evaluation with UA and renal 
ultrasound. 
5. 4mm right lower lobe pulmonary nodule is stable since ___. 
6. Abdominal aortic aneurysm measuring 2.3 cm in diameter is new 
since ___. 
7. Heterotopic ossification at the left adductor muscles is new 
since ___. 

Renal u/s ___
IMPRESSION: 
Complex cystic lesion with possible peripheral rim of solid 
tissue in the mid-upper left kidney.  The finding could be a 
cystic renal mass.  A metastasis is unlikely.  Non-emergent MRI 
is recommended for further evaluation.
 
RECOMMENDATION(S):  Non-emergent renal MRI within 3 months
 
 
Brief Hospital Course:
Ms. ___ is an ___ ___ speaking woman with history of 
DMII, HTN, HLD, OA, pancreatitis, gastric ulcer and HCC not 
treated presenting with abdominal pain and acute on chronic left 
hip pain found to have DVT, liver lesions and lactate elevation. 


# Abdominal pain: Patient presenting with sharp abdominal pain 
in epigastrium in the setting of nausea and vomiting likely due 
to gastroenteritis vs gastritis vs ulcer disease. Symptoms 
resolved with IVF, tylenol, and sucralfate. Patient was 
monitored and did not have any recurrence of symptoms. Urine 
culture pending at discharge. 
 
# DVT: Found to have likely left common femoral DVT on CT 
abdomen/pelvis concerning for malignancy related clot. Initially 
treated with heparin gtt. Therapeutic options including lovenox, 
warfarin, and novel anticoagulants were discussed with the 
family. Both patient and HCP, daughter, chose to use a novel 
anticoagulant. Thus, she was transitioned to rivaroxaban. PCP 
was notified and in agreement with this plan. 

# Lactic acidosis: Patient with significant lactic acidosis 
without clear source on admission, but most likely due to 
hypovolemia in setting of recent nausea, vomiting with poor PO 
intake. Lactate returned to normal with IVF administration. 
Metformin was held and restarted on discharge. 

# Hypomagnesemia: Initially 0.9 on admission, likely secondary 
to poor PO intake, nausea and vomiting. Resolved with aggressive 
repletion. She was monitored on telemetry without any arrthymias 
noted. Noted to have magnesium of 1.5 on day of discharge, but 
likely due to diarrhea experienced day prior to discharge. 
Recommend checking electrolytes at next PCP visit to ensure 
stability.

# Hyponatremia: Na 131 on admission, likely hypovolemic 
hyponatremia from vomiting and poor PO intake. Resolved with 
IVF. 

# Left Upper Pole Renal Mass: Seen on CT with stranding 
overlying Gerota's fascia could be due to infected caliceal 
diverticulum or metastatic involvement. Renal ultrasound more 
consistent with complex cystic lesion rather than metastatic 
lesion. Review of prior MRI at ___ from ___ confirmed 
mass previously seen and similar in size. 

# ___: Patient evaluated at ___ with Dr. ___ 
previously. Case was discussed with primary oncologist, who 
relayed that patient had refused diagnosis and treatment for 
these lesions. Most likely representative of ___. Review of 
prior MRI in ___ showed that largest lesion increased in 
size by approximately 0.5cm, which is consistent with natural 
progression of disease. Confirmed with patient and HCP that she 
does not wish to pursue either diagnosis or treatment of these 
lesions. 

# Diabetes: Most recent A1c of 8.9%. Patient maintained on 
insulin sliding scale. Home metformin and glipizide were held 
during hospitalization and resumed at discharge. 

# Hypertension: Normotensive on arrival and atenolol was 
initially held in setting of hypovolemia as noted above. 
Atenolol was restarted and tolerated well. 

# Depression: Continued home fluoxetine.

# Appetite: Continued home megestrol BID.

# Iron deficiency anemia: Iron supplement was held on admission 
given GI upset, restarted on discharge.

Transitional issues:
- consider checking outpatient lactate level on metformin given 
significant elevation on admission 
- please check electrolytes including magnesium at next PCP 
visit to ensure stability; could consider d/c PPI in setting of 
persistent hypomagnesaemia
- urine culture pending at discharge
- patient and family confirm she would not want diagnosis or 
treatment of known liver and kidney lesions
- confirmed DNR, okay to intubate for reversible causes
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO BID 
2. Cyanocobalamin 1000 mcg IM/SC QMONTH 
3. esomeprazole magnesium 40 mg oral DAILY 
4. FLUoxetine 20 mg PO DAILY 
5. GlipiZIDE XL 5 mg PO DAILY 
6. HYDROmorphone (Dilaudid) 0.5 mg PO DAILY:PRN Pain - Mild 
7. Megestrol Acetate 40 mg PO BID 
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. Sucralfate 1 gm PO TID 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Rivaroxaban 15 mg PO BID 
please take with food 
RX *rivaroxaban [Xarelto] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth twice a day Disp #*1 Dose Pack Refills:*0 
3.  Atenolol 25 mg PO BID  
4.  Cyanocobalamin 1000 mcg IM/SC QMONTH  
5.  esomeprazole magnesium 40 mg oral DAILY  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  FLUoxetine 20 mg PO DAILY  
8.  GlipiZIDE XL 5 mg PO DAILY  
9.  HYDROmorphone (Dilaudid) 0.5 mg PO DAILY:PRN Pain - Mild  
10.  Megestrol Acetate 40 mg PO BID  
11.  MetFORMIN (Glucophage) 1000 mg PO BID  
12.  Sucralfate 1 gm PO TID  
13.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute Deep Venous Thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you during your stay at ___ 
___. You were admitted for abdominal pain 
and were found to have a clot in a large vein in your body. You 
were started on a blood thinner. You should take this as 
directed and do not miss any doses.

Please follow-up with your primary care doctor as listed below. 
You should have your electrolytes checked at your next PCP visit 
to ensure they are all within normal limits.

Please take care,
Your ___ Team
 
Followup Instructions:
___